US06075029
To a stirring solution of 3-(2-furylmethyl)-8-methylxanthine (1.35 g, 5.48 mmol) in dimethyl sulfoxide (20 ml) was added sodium hydride (132 mg, 5.48 mmol) in one portion. After 30 minutes, chloromethyl pivalate (0.83 ml, 5.76 mmol) was added neat. The reaction was allowed to stir at ambient temperature for 24 h. The reaction was quenched by slow addition of water (75 ml). After stirring for 3 hours, the solid was filtered and rinsed with water (4×50 ml) and ethanol (50 ml). The product was recrystallized from ethanol/ethyl acetate/hexane to give 3-(2-Furylmethyl)-7-pivaloyloxymethyl-8-methylxanthine (1.36 g, 69%) as an off-white solid.

reactant | 3-(2-furylmethyl)-8-methylxanthine | 5.48 mmol, 1.35 g | O1C(=CC=C1)CN1C(NC(C=2NC(=NC12)C)=O)=O | C11H10N4O3
reactant | sodium hydride | 5.48 mmol, 132 mg | [H-].[Na+]
reactant | chloromethyl pivalate | 5.76 mmol, 0.83 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 3-(2-Furylmethyl)-7-pivaloyloxymethyl-8-methylxanthine | 1.36 g, 69% | O1C(=CC=C1)CN1C(NC(C=2N(C(=NC12)C)COC(C(C)(C)C)=O)=O)=O | C17H20N4O5
